US06329389B1
2,2′-Dioxo-1-propyl-1′,2′,3′,4′-tetrahydrospiro[piperidin-3,3′-quinoline]
10% Palladium- carbon (0.2 g) was added to an ethanol solution (20 ml) of ethyl 3-(2-nitrobenzyl)-2-oxo-1-propyl-3-piperidinecarboxylate (1.00 g), and catalytic hydrogenation was conducted at room temperature under one atmospheric pressure for 6 hours. The catalyst was removed by filtration and the filtrate was concentrated. The residue was dissolved in toluene (20 ml), which was heated under reflux for 12 hours. The reaction mixture was concentrated, and the obtained crude crystals were recrystallized from ethyl acetate-hexane to give the entitled compound (0.55 g).

reactant | ethyl 3-(2-nitrobenzyl)-2-oxo-1-propyl-3-piperidinecarboxylate | 1.00 g | [N+](=O)([O-])C1=C(CC2(C(N(CCC2)CCC)=O)C(=O)OCC)C=CC=C1 | C18H24N2O5
catalyst | Palladium- carbon | 0.2 g | [C].[Pd]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2,2′-Dioxo-1-propyl-1′,2′,3′,4′-tetrahydrospiro[piperidin-3,3′-quinoline] | 0.55 g | O=C1N(CCCC12C(NC1=CC=CC=C1C2)=O)CCC | C16H20N2O2
